US05853699
b) N-Benzyloxycarbonyl-2-amino-2-[4-propoxybenzyl]-ethanol
4.15 g (11.2 mmol) of N-benzyloxycarbonyl-3-[4-propoxyphenyl]-alanine-methyl ester is dissolved in 20 ml of tert-butyl methyl ether and mixed with 0.17 g (4.5 mmol) of sodium borohydride. At 0° C., 6 ml of methanol is added and it is stirred for three hours under argon at a temperature below 5° C. Then, 0.8 ml of acetic acid, dissolved in 3 ml of tetrahydrofuran, is added, mixed with 3 ml of water and stirred for ten minutes at room temperature. The organic phase is separated, washed with water and dried on sodium sulfate. The drying agent is suctioned off, the filtrate is concentrated by evaporation and the residue is chromatographed for purification on silica gel (eluent: ethyl acetate/hexane).

reactant | N-benzyloxycarbonyl-3-[4-propoxyphenyl]-alanine-methyl ester | 11.2 mmol, 4.15 g | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OCCC)=O | C21H25NO5
reactant | sodium borohydride | 4.5 mmol, 0.17 g | [BH4-].[Na+]
reactant | methanol | 6 ml | CO | CH4O
reactant | acetic acid | 0.8 ml | C(C)(=O)O | C2H4O2
solvent | tert-butyl methyl ether | 20 ml | COC(C)(C)C | C5H12O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | water | 3 ml | O | H2O
product | N-Benzyloxycarbonyl-2-amino-2-[4-propoxybenzyl]-ethanol | C(C1=CC=CC=C1)OC(=O)NC(CO)CC1=CC=C(C=C1)OCCC | C20H25NO4
